US07960560B2
i)—To a solution of glycine (15 g, 200 mmol) in water (80 ml) were added an aqueous solution of sodium hydroxide (20 ml, 10 M) and a solution of 4-bromobenzaldehyde (37 g, 200 mmol) in methanol (440 ml). After 10 minutes stirring at room temperature sodium borohydride (7.5 g, 200 mmol) was added in portions to this suspension. After 18 h stirring at room temperature the reaction mixture was concentrated under reduced pressure and washed with diethyl ether. The aqueous phase was neutralized with concentrated hydrochloric acid. The precipitate was collected by filtration, washed with water and diethyl ether. Drying the white solid afforded 2-(4-bromobenzylamino)acetic acid (14.98 g). The product was used in the following step without purification.

reactant | glycine | 200 mmol, 15 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | 10 M, 20 ml | [OH-].[Na+]
reactant | 4-bromobenzaldehyde | 200 mmol, 37 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | sodium borohydride | 200 mmol, 7.5 g | [BH4-].[Na+]
solvent | water | 80 ml | O | H2O
solvent | methanol | 440 ml | CO | CH4O
product | 2-(4-bromobenzylamino)acetic acid | 14.98 g | BrC1=CC=C(CNCC(=O)O)C=C1 | C9H10BrNO2
